US05416231
Preparation of 2-(5-oxo-3-pentynyl)cyclopropanecarboxylic acid methyl ester
Oxalyl chloride (0.40 g, 3.1 mmol) was dissolved in dichloromethane, and the solution was cooled to -40° C. A solution of dimethyl sulfoxide (0.52 g, 6.2 mmol) in dichloromethane (2 ml) was added thereto over a period of 5 minutes, and the mixture was stirred for 20 minutes. A solution of 2-(5-hydroxy-3-pentynyl)cyclopropanecarboxylic acid methyl ester (0.37 g, 2 mmol) in dichloromethane (5 ml) was added thereto, and the mixture was stirred for 30 minutes. Then, triethylamine (1.7 ml, 12 mmol) was added thereto. The temperature was raised to 0° C., and a saturated sodium chloride aqueous solution was added thereto. The product was extracted with dichloromethane, dried over anhydrous magnesium sulfate and then purified by silica gel column chromatography to obtain the above identified compound (0.35 g, yield: 96%).

reactant | Oxalyl chloride | 3.1 mmol, 0.40 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 6.2 mmol, 0.52 g | CS(=O)C | C2H6OS
reactant | 2-(5-hydroxy-3-pentynyl)cyclopropanecarboxylic acid methyl ester | 2 mmol, 0.37 g | COC(=O)C1C(C1)CCC#CCO | C10H14O3
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(5-oxo-3-pentynyl)cyclopropanecarboxylic acid methyl ester | 0.35 g, yield: 96% | COC(=O)C1C(C1)CCC#CC=O | C10H12O3
